US06313153B1
N-Methyl-3,4,5-trimethoxyphenethylamine (1.60 g, 7.11 mmol) and trans-3-(3-pyridyl)acrylic acid (1.17 g) were dissolved in dimethylformamide (8 ml), and diethylphosphoric cyanide (1.3 ml) and triethylamine (2.2 ml) were sequentially added under ice-cooling and stirring and stirred at room temperature for 1 hour. Saturated aqueous sodium bicarbonate solution was added to the reaction mixture, and the reaction mixture was extracted with dichloromethane, washed with water and dried over potassium carbonate. The solvent was distilled out under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=10:1) to yield amorphous (E)-N-methyl-3-(3-pyridyl)-N-(3,4,5-trimethoxyphenethyl)-2-propenoic acid amide (2.37 g, 94%). Then, hydrogen chloride-methanol was added to the product (1.80 g) to produce its hydrochloride, which was recrystallized in a mixed solvent of ethyl acetate-methanol to yield the titled compound (1.59 g, 57%).

reactant | N-Methyl-3,4,5-trimethoxyphenethylamine | 7.11 mmol, 1.60 g | CNCCC1=CC(=C(C(=C1)OC)OC)OC | C12H19NO3
reactant | trans-3-(3-pyridyl)acrylic acid | 1.17 g | N1=CC(=CC=C1)/C=C/C(=O)O | C8H7NO2
reactant | triethylamine | 2.2 ml | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | (E)-N-methyl-3-(3-pyridyl)-N-(3,4,5-trimethoxyphenethyl)-2-propenoic acid amide | 2.37 g, 94% | CN(C(\C=C\C=1C=NC=CC1)=O)CCC1=CC(=C(C(=C1)OC)OC)OC | C20H24N2O4
